US09382188B2
P) ethyl 3-(3-(2-fluoro-2-(5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)ethyl)phenyl)acrylate
Under a nitrogen atmosphere, to a suspension of 60% sodium hydride (21 mg) in THF (2.0 mL) was added ethyl diethylphosphonoacetate (117 μL) at 0° C., and the mixture was stirred at room temperature for 5 min. To the obtained colorless solution was added 3-(2-fluoro-2-(5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)ethyl)benzaldehyde (entire amount) obtained in Example 36, step 0, at 0° C. and the mixture was stirred at room temperature for 20 min. Water was added to the reaction mixture at room temperature, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane) to give the title compound (119 mg) as a colorless oil.

reactant | sodium hydride | 21 mg | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 117 μL | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 3-(2-fluoro-2-(5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)ethyl)benzaldehyde | FC(CC=1C=C(C=O)C=CC1)C1=NC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C26H27F2NO2
reactant | Water | O | H2O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | ethyl 3-(3-(2-fluoro-2-(5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)ethyl)phenyl)acrylate | 119 mg | FC(CC=1C=C(C=CC1)C=CC(=O)OCC)C1=NC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C30H33F2NO3
